US08076345B2
2-{4-[(R)-3-Hydroxy-1-(6-methyl-pyridin-3-yl)-propylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-5-methyl-benzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (60 mg, 0.21 mmol) and (R)-3-amino-3-(6-methylpyridin-3-yl)propan-1-ol (35 mg, 0.21 mmol) in acetonitrile (2 mL) and N,N-diisopropylethylamine (73 μL, 0.42 mmol) was subjected to microwave irradiation at 180° C. for 3 h. The reaction mixture was concentrated and the residue was purified by silica gel column (0-30% MeOH/CH2Cl2) followed by preparative HPLC (100×20.2 mm, C18 column; 20-50% CH3CN-water [10 mM Et2NH]) to yield an off-white solid (29 mg).

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 0.21 mmol, 60 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | (R)-3-amino-3-(6-methylpyridin-3-yl)propan-1-ol | 0.21 mmol, 35 mg | N[C@H](CCO)C=1C=NC(=CC1)C | C9H14N2O
reactant | N,N-diisopropylethylamine | 0.42 mmol, 73 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 2-{4-[(R)-3-Hydroxy-1-(6-methyl-pyridin-3-yl)-propylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-5-methyl-benzonitrile | 29 mg | OCC[C@H](C=1C=NC(=CC1)C)NC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C24H26N6O
